US07977344B2
2-{[(Tetrahydro-3-furanylmethyl)oxy]carbonyl}benzoic acid
A mixture of phthalic anhydride (7.41 gm) and tetrahydro-3-furanmethanol were heated with stirring at 130° C. under nitrogen. After 1.5 h, the clear liquid was allowed to cool, treated with water and extracted with EtOAc (×3). The combined organics were dried by passing through a hydrophobic frit and evaporated to a clear oil which crystallised on trituration with light petrol. The solid was filtered, washed and dried, yield 11.93 gm.

reactant | phthalic anhydride | 7.41 gm | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | tetrahydro-3-furanmethanol | O1CC(CC1)CO | C5H10O2
solvent | water | O | H2O
product | 2-{[(Tetrahydro-3-furanylmethyl)oxy]carbonyl}benzoic acid | O1CC(CC1)COC(=O)C1=C(C(=O)O)C=CC=C1 | C13H14O5
